### PR TITLE
[Merged by Bors] - chore: fix some slow maxHeartbeats and backwards compatibility flags

### LINKED ISSUE #12534: tracking issue for `set_option backward.isDefEq.lazyWhnfCore false`
This option disables the changes to `isDefEq` introduced in https://github.com/leanprover/lean4/pull/4004, and is still sometimes necessary in Mathlib.

It would be great to reduce our reliance on this backwards compatibility flag.

This may involve
* just reducing the reliance on defeq in the affected theorems (i.e. more rewrites, less rfl/convert/...)
* producing minimized examples of the places in Mathlib where the old behaviour is required for performance.
  * https://github.com/leanprover/lean4/pull/4023 is an example of one such minimization, and we're looking at that now. Optimistically a fix is possible, and it will improve behaviour for more than just one of these flags.

(See [all occurrences on Mathlib's `master`](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4+backward.isDefEq.lazyWhnfCore&type=code).)

### LINKED ISSUE #12535: tracking issue for `set_option backward.isDefEq.lazyProjDelta false`
This option disables the changes to `isDefEq` introduced in https://github.com/leanprover/lean4/pull/3965, and is still sometimes necessary in Mathlib.

It would be great to reduce our reliance on this backwards compatibility flag.

This may involve
* just reducing the reliance on defeq in the affected theorems (i.e. more rewrites, less rfl/convert/...)
* producing minimized examples of the places in Mathlib where the old behaviour is required for performance.

(See [all occurrences on Mathlib's `master`](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4+backward.isDefEq.lazyProjDelta&type=code).)

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR fixes some `set_option maxHeartbeats` and all `set_option backwards._` situations. In these possible ways:
- writing the proof in a better way
- overwriting the default `aesop_cat` with a more efficient proof
- simply removing an unnecessary set_option.

This saves quite a bit of time.

closes #12534
closes #12535

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
!bench

**Comment by JovanGerb** [comment]
The technical debt counter says that there is one more instance of `set_option.*backward` left. But that is in the file `technical-debt-metrics.sh` itself, so it doesn't really count

**Review by Ruben-VandeVelde — COMMENTED** [review]
On the one hand these are all good changes, but I worry we're papering over issues that need to be fixed in aesop

**Comment by JovanGerb** [comment]
It's not aesop that's to blame, but it is `simp`. The `aesop_cat` calls that I've replaced all spent most of their time on normalizing the goal with `simp`.

The problem seems to be that definitional equality is very time consuming to check for some definitions. Additionally, the goals that `simp` is used on may contain large proofs that it also tries to simplify.

**Comment by Ruben-VandeVelde** [comment]
maintainer merge?



> On the one hand these are all good changes, but I worry we're papering over issues that need to be fixed in aesop

**Comment by mattrobball** [comment]
It would good to merge master and confirm the improvements still exist/are necessary on the current toolchain.

File: Mathlib/Algebra/Homology/DifferentialObject.lean [hunk 1]
```diff
@@ -93,6 +92,8 @@ def dgoToHomologicalComplex :
         -- Porting note: this `rw` used to be part of the `simp`.
         have : f.f i ≫ Y.d i = X.d i ≫ f.f _ := (congr_fun f.comm i).symm
         rw [reassoc_of% this] }
+  map_id _ := rfl
+  map_comp _ _ := rfl
```
Comment (kim-em) [inline Mathlib/Algebra/Homology/DifferentialObject.lean:96]: Proofs like this, which can be done by the auto_param, but are slow, need to have a comment added, or they will just get removed again.

File: Mathlib/CategoryTheory/Triangulated/Functor.lean [hunk 2]
```diff
@@ -96,6 +96,8 @@ set_option maxHeartbeats 400000 in
 noncomputable instance [∀ (n : ℤ), (shiftFunctor C n).Additive]
     [∀ (n : ℤ), (shiftFunctor D n).Additive] : (F.mapTriangle).CommShift ℤ where
   iso := F.mapTriangleCommShiftIso
+  zero := by ext <;> simp
+  add _ _ := by ext <;> simp
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Triangulated/Functor.lean:100]: Maybe a comment on these: "-- these work by the `auto_param` but are even slower"

**Comment by kim-em** [comment]
Very nice! Just adding some more comments so this doesn't get undone, please.

bors d+

**Comment by kbuzzard** [comment]
!bench

**Comment by kbuzzard** [comment]
(following up on mattrobball's comment)

**Comment by mattrobball** [comment]
I think it still needs to pass CI

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 3]
```diff
@@ -125,6 +125,8 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
         slice_rhs 1 2 => rw [whisker_exchange]
         slice_rhs 2 3 => rw [← g.act_hom]
         rw [Category.assoc] }
+  map_id _ := rfl
+  map_comp _ _ := rfl
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:129]:
```suggestion
  map_id _ := rfl -- the autoparam solves this but it's slow
  map_comp _ _ := rfl -- the autoparam solves this but it's slow
```

File: Mathlib/CategoryTheory/Monoidal/Mon_.lean [hunk 4]
```diff
@@ -284,6 +284,12 @@ def mapMon (F : C ⥤ D) [F.LaxMonoidal] : Mon_ C ⥤ Mon_ D where
       mul_hom := by
         rw [Category.assoc, μ_natural_assoc, ← F.map_comp, ← F.map_comp,
           f.mul_hom] }
+  map_id _ := by
+    simp only [Mon_.id_hom', map_id]
+    rfl
+  map_comp _ _ := by
+    simp only [Mon_.comp_hom', map_comp]
+    rfl
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Monoidal/Mon_.lean:292]:
```suggestion
  map_id _ := by -- the autoparam solves this but it's slow
    simp only [Mon_.id_hom', map_id]
    rfl
  map_comp _ _ := by -- the autoparam solves this but it's slow
    simp only [Mon_.comp_hom', map_comp]
    rfl
```

File: Mathlib/CategoryTheory/Triangulated/Functor.lean (hunk 2 above)
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Triangulated/Functor.lean:100]:
```suggestion
  zero := by ext <;> simp -- the autoparam solves this but it's slower
  add _ _ := by ext <;> simp -- the autoparam solves this but it's slower
```

**Comment by JovanGerb** [comment]
!bench

**Comment by JovanGerb** [comment]
The change in Functor.Flat broke after updating to the new toolchain. This is because simp had changed a bit:
In the previous toolchain, if there is a local variable `x := (1,2)`, then a `simp only` will turn `x.fst` into `1`, while leaving a loose `x` as `x`.

Now to get rid of the maxHeartbeats, I temporarily disabled a slow-failing simp lemma.

File: Mathlib/Algebra/Homology/DifferentialObject.lean [hunk 5]
```diff
@@ -93,6 +92,8 @@ def dgoToHomologicalComplex :
         -- Porting note: this `rw` used to be part of the `simp`.
         have : f.f i ≫ Y.d i = X.d i ≫ f.f _ := (congr_fun f.comm i).symm
         rw [reassoc_of% this] }
+  map_id _ := rfl -- the autoparam solves this but it's slower
```
Comment (mattrobball) [inline Mathlib/Algebra/Homology/DifferentialObject.lean:95]: All of these autoparams are `aesop_cat` correct? It might be good to mention that in the comments. If we move on from `aesop_cat`, it would make locating these workarounds simpler via a naive search.

Comment (JovanGerb) [reply Mathlib/Algebra/Homology/DifferentialObject.lean]: good idea

**Review by mattrobball — APPROVED** [review]
Looks good. Thanks! Please merge when you are ready.

File: Mathlib/CategoryTheory/Functor/Flat.lean [hunk 6]
```diff
@@ -82,7 +82,9 @@ theorem RepresentablyFlat.id : RepresentablyFlat (𝟭 C) := inferInstance
 
 theorem RepresentablyCoflat.id : RepresentablyCoflat (𝟭 C) := inferInstance
 
-set_option maxHeartbeats 400000 in
+-- this slow simp lemma causes a maxHeartbeats exception
+attribute [-simp] CostructuredArrow.right_eq_id in
```
[the remark this answers is not in the document]
Comment (JovanGerb) [reply Mathlib/CategoryTheory/Functor/Flat.lean:86]: I had no idea about this, but some testing seems to show that `attribute [-simp] in` works correctly.

[the remark this answers is not in the document]
Comment (collares) [reply Mathlib/CategoryTheory/Functor/Flat.lean:86]: Thanks for checking!
